US04710316
Manufacture of 2-(3,5-dimethylbenzyl)-butan-2-ol
3,5-dimethylbenzylmagnesium chloride was manufactured from 2.6 g of magnesium powder and 15.5 g of 3,5-dimethylbenzyl chloride dissolved in 200 ml of diethyl ether and reacted with 7.5 g of methyl ethyl ketone in a temperature range of from 20° C. to 25° C. After 2 hours, the whole was poured onto ice and acidified, and the organic phase was separated off and extracted by shaking with water and sodium bicarbonate solution. After drying the organic phase with solid potassium carbonate, fractional distillation was carried out. 13 g of end product were obtained in a temperature range of from 63° C. to 65° C. at 0.12 mbar.

reactant | 3,5-dimethylbenzylmagnesium chloride | CC=1C=C(C[Mg]Cl)C=C(C1)C
reactant | magnesium | 2.6 g | [Mg] | Mg
reactant | 3,5-dimethylbenzyl chloride | 15.5 g | CC=1C=C(CCl)C=C(C1)C | C9H11Cl
reactant | methyl ethyl ketone | 7.5 g | C(C)C(=O)C | C4H8O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-(3,5-dimethylbenzyl)-butan-2-ol | CC=1C=C(CC(C)(CC)O)C=C(C1)C | C13H20O
